US04063929
e. Dicyclohexylammonium 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate
5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid (3.0 g, 0.0083 mole) is dissolved in glyme (20 ml) and dicyclohexylamine (1.64 g, 0.0091 mole) is added at room temperature while stirring. The solvent is removed in vacuo, the residue triturated with petroleum ether (bp 30°-60° C.) and dried to give 2.7 g of product, mp 197°-9° C. Anal. Calcd. for C26H30ClF3N2O5 : C, 57.51; H, 5.56; N, 5.15; Cl, 6.53; F, 10.49. Found C, 57,25; H, 5.71; N, 5.55, Cl, 6.40; F, 10.24.

reactant | 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoic acid | 0.0083 mole, 3.0 g | ClC1=C(OC=2C=CC(=C(C(=O)O)C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F | C14H7ClF3NO5
reactant | dicyclohexylamine | 0.0091 mole, 1.64 g | C1(CCCCC1)NC1CCCCC1 | C12H23N
solvent | glyme | 20 ml | C(OC)COC | C4H10O2
product | Dicyclohexylammonium 5-(2-Chloro-4-trifluoromethylphenoxy)-2-nitrobenzoate | 2.7 g | ClC1=C(OC=2C=CC(=C(C(=O)[O-])C2)[N+](=O)[O-])C=CC(=C1)C(F)(F)F.C1(CCCCC1)[NH2+]C1CCCCC1 | InChI=1S/C14H7ClF3NO5.C12H23N/c15-10-5-7(14(16,17)18)1-4-12(10)24-8-2-3-11(19(22)23)9(6-8)13(20)21;1-3-7-11(8-4-1)13-12-9-5-2-6-10-12/h1-6H,(H,20,21);11-13H,1-10H2
